US05298663
Following a procedure analogous to that of Example 12, but using methyl(diethoxymethyl)phosphine oxide instead of tert-butyl(diethoxymethyl)phosphine oxide and using methyl iodide instead of benzyl bromide, there is obtained dimethyl(diethoxymethyl)phosphine oxide.

reactant | methyl(diethoxymethyl)phosphine oxide | CP(C(OCC)OCC)=O | C6H15O3P
reactant | methyl iodide | CI | CH3I
product | dimethyl(diethoxymethyl)phosphine oxide | CP(C(OCC)OCC)(C)=O | C7H17O3P
